2190-03-24 06:26:00 Physician Resident Progress Note
Chief Complaint: 54M with PMH bipolar disorder and thyroid goiter
   presents with delirium s/p subtotal thyroidectomy, intubated for
   sedation.
   24 Hour Events:
   -Patient awoke from surgery in the PACU and became acutely delirious,
   non-invasive sedation was attempted with haldol and ativan, however,
   the patient was at risk of harming himself.  In the post-operative
   period he was fullly sedated with propofol and intubated for airway
   protection.
   -ABG reflected elevated PaO2, FiO2 was decreased from 100 to 40
   -OG tube placed for delivery of psych meds prior to extubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-3-24**] 12:00 AM
   Other medications:
   Phenelzine 30mg TID
   Lithium 600mg [**Hospital1 **]
   Haldol 1mg q4H prn
   Morhpine q2H prn
   famotidine IV BID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-24**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.3
C (95.6
   HR: 57 (48 - 63) bpm
   BP: 97/62(69) {84/48(57) - 97/62(69)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,195 mL
                                                                    799 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                    799 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    520 mL
   Urine:
                                                                    280 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    915 mL
                                                                    279 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 800) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/38/167/25/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General Appearance: Well nourished, No acute distress, intubated and
   sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube, OG
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Bradycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), Coarse
   ventilated breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   12.6 g/dL
   122 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   138 mEq/L
   36.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2190-3-23**]  10:58 PM
                             [**2190-3-24**]  03:47 AM
   WBC
   8.4
   Hct
   36.8
   Plt
   197
   Cr
   0.8
   TCO2
   25
   Glucose
   122
   Other labs: Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   54M with PMH bipolar disorder and thyroid goiter, now POD #1 from
   subtotal thyroidectomy, with agitated delirium post-op requiring
   intubation/sedation for airway protection.
   1. Delirium:  This is likely secondary to underlying psychiatric
   disease, where the patient had been NPO for surgery without meds on
   board, waking in unfamiliar surroundings, with multiple dopaminergic
   drugs on board from the surgery itself.  Electrolytes wnl.
   -OG tube placed for delivery of psych meds prior to extubation
   -Haldol and morphine prn for extubation
   -F/u psych recs
   2. Respiratory:  Intubated for respiratory protection
   -Plan to extubate today with the above plan
   3. s/p subtotal thyroidectomy:
   -Routine post-op care per surgery team.
   4. Bipolar disorder:
   -continue phenelzine and lithium. Will check lithium level given
   potential peri-op fluid shifts.
   5. Hypotension: likely due to propofol + hypovolemia peri-op, although
   minimal blood loss and local surgery does not generally entail
   significant fluid shifts. Maintenance IVF + bolus prn for SBP goal >90.
   ICU Care
   Nutrition:
   Comments: NPO while intubated
   Glycemic Control:  Comments: Not needed
   Lines:
   20 Gauge - [**2190-3-23**] 08:00 PM
   18 Gauge - [**2190-3-23**] 10:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: IV famotidine
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:To floor if stable after extubation

2190-03-24 09:33:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2190-3-23**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2190-3-24**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2190-3-24**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-24**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.2
   HR: 59 (46 - 63) bpm
   BP: 104/63(72) {84/48(57) - 104/63(72)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,195 mL
                                                                  1,290 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                  1,290 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    830 mL
   Urine:
                                                                    280 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    915 mL
                                                                    460 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 800) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/38/167/25/0
   Ve: 7.9 L/min
   PaO2 / FiO2: 418
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   197 K/uL
   122 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   138 mEq/L
   36.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2190-3-23**]  10:58 PM
                             [**2190-3-24**]  03:47 AM
   WBC
   8.4
   Hct
   36.8
   Plt
   197
   Cr
   0.8
   TCO2
   25
   Glucose
   122
   Other labs: Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   Delerium
  Likely combination of held psych meds, anesthesia, and
   situational delerium with baseline psych disorder
                  - Continue propofol overnight, wean to goal [**12-28**]
   overbreaths and comfortable
   Hypotension
 Give IVF x1L and wean propofol
   -          Patient is maintaining excellent UOP ans is without other
   signs of end-organ ischemia
   -          Check f/u HCT
   Respiratory failure
 Continue A/C vent overnight, wean FiO2, confirm
   ETT placement with CXR
   -          Check RSBI and plan for extubation in AM
   Subtotal thyroidectomy
 wound looks stable, postop care per surgical
   team
   Bipolar d/o
 resume home meds @ 0600 via NGT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-3-23**] 08:00 PM
   18 Gauge - [**2190-3-23**] 10:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2190-03-25 07:33:00 Physician Resident Progress Note
Chief Complaint: Delirium
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-3-24**] 09:45 AM
   -Received a total of 3mg IV haldol and one dose of zyprexa with
   continued delirium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2190-3-24**] 10:14 AM
   Famotidine (Pepcid) - [**2190-3-24**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2190-3-25**] 12:11 AM
   Haloperidol (Haldol) - [**2190-3-25**] 12:12 AM
   Other medications:
   Phenelzine 30mg TID
   Lithium 600mg [**Hospital1 **]
   Haldol 2mg q4hprn
   Thiamine 100mg IV daily
   Heparin SC
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Not giving meaningful responses to questions
   Flowsheet Data as of  [**2190-3-25**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 70 (53 - 94) bpm
   BP: 102/63(72) {84/34(48) - 117/70(76)} mmHg
   RR: 19 (13 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,507 mL
                  PO:
                  TF:
   IVF:
                                                                  1,507 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    620 mL
   Urine:
                                                                  2,220 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -713 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: ///26/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Confused,
   sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Regular rhythm, normal rate
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Not oriented to place or time, responses are not
   meaningful.  Minimally responsive to commands.
   Labs / Radiology
   209 K/uL
   13.2 g/dL
   103 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   110 mEq/L
   142 mEq/L
   39.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2190-3-23**]  10:58 PM
                             [**2190-3-24**]  03:47 AM
                             [**2190-3-25**]  05:13 AM
   WBC
   8.4
   12.8
   Hct
   36.8
   39.7
   Plt
   197
   209
   Cr
   0.8
   0.7
   TCO2
   25
   Glucose
   122
   103
   Other labs: Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR [**3-24**]:
   New transesophageal tube passes into the stomach and out of view.
   Borderline
   cardiomegaly is new accompanied by increasing mediastinal and hilar
   vascular
   engorgement suggesting cardiac decompensation, although there is no
   clear
   pulmonary edema. Left infrahilar consolidation, either atelectasis or
   pneumonia, is unchanged. Pleural effusion, if any, is small on the
   left. No
   indication of pneumothorax.
   Endotracheal tube ends just above the upper margin of the clavicles,
   still
   less than 4 cm from the carina, with the chin elevated, which is
   acceptable.
   No pneumothorax.
   Assessment and Plan
   54M with PMH bipolar disorder and thyroid goiter, now POD #2 from
   subtotal thyroidectomy, with agitated delirium post-op requiring
   intubation/sedation for airway protection.
   1. Delirium:  Occuring acutely after surgery.  Likely a response to
   anesthesia given family history of post-surgical delirium in his
   mother.  [**Name (NI) 317**] an elevation in his white count today, with no fevers.
   CXR comments on a left infrahilar consolidation.  Has had a minimal
   oxygen requirement with a nasal cannula.
   -Added on a differential to CBC to assess for a left shift.
   -UA and repeat CXR today
   -continue lithium and phenelzine
   -Haldol and zyprexa prn agitation
   -F/u psych recs
   2. Leukocytosis: New leukocytosis in the setting of delirium and ? of
   consolidation on CXR.  Low suspicion for PNA.
   -Repeat CXR
   -UA
   -Added on a differential
   3. s/p subtotal thyroidectomy:
   -Routine post-op care per surgery team.
   4. Bipolar disorder:
   -continue phenelzine and lithium.
   -psych recs
   ICU Care
   Nutrition:
   Comments: Regular diet as tolerated when not sedated
   Glycemic Control:  Comments: Not needed
   Lines:
   20 Gauge - [**2190-3-23**] 08:00 PM
   18 Gauge - [**2190-3-23**] 10:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:To floor for delirium w/u

2190-03-25 09:43:00 Physician Attending Progress Note
Chief Complaint: delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated successfully yesterday
   Was non verbal initially though now conversant but quite confused
   History obtained from Family / Friend
   [**Name (NI) 53**] unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2190-3-24**] 10:14 AM
   Famotidine (Pepcid) - [**2190-3-24**] 07:42 PM
   Haloperidol (Haldol) - [**2190-3-25**] 12:12 AM
   Heparin Sodium (Prophylaxis) - [**2190-3-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2190-3-25**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 84 (64 - 94) bpm
   BP: 95/45(58) {84/34(48) - 117/70(76)} mmHg
   RR: 21 (15 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,507 mL
                                                                    141 mL
   PO:
             TF:
   IVF:
                                                                  1,507 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    740 mL
   Urine:
                                                                  2,220 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -713 mL
                                                                   -599 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen: sitting up in bed, conversant
   Neck: incions CDI
   CV: RR
   Chest: [**Month (only) 38**] BS both bases, no wheezes
   Abd: soft NT
   Ext: no edema
   Neuro: alert conversant able to answer some ?s but inattentive
   Labs / Radiology
   13.2 g/dL
   209 K/uL
   103 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   110 mEq/L
   142 mEq/L
   39.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2190-3-23**]  10:58 PM
                             [**2190-3-24**]  03:47 AM
                             [**2190-3-25**]  05:13 AM
   WBC
   8.4
   12.8
   Hct
   36.8
   39.7
   Plt
   197
   209
   Cr
   0.8
   0.7
   TCO2
   25
   Glucose
   122
   103
   Other labs: Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   1. Post op Delerium
  Likely combination of held psych meds,
   anesthesia, and situational delerium with baseline psych disorder. Much
   improved this AM but still not safe to go home
 will likely need to go
   to Med vs [**Doctor First Name 458**] floor with Psych following.
   2. Possible Aspiration PNA peri reintubation:afebrile, good cough, CXR
   slightly improved. Will hold off on empriric ABX unless clinical change
   3. Subtotal thyroidectomy
 wound looks stable, postop care per
   surgical team
    4. Bipolar d/o
 resume home meds, follow up with Psych
   ICU Care
   Nutrition: will adavnce diet as mental status tolerates
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-3-23**] 08:00 PM
   18 Gauge - [**2190-3-23**] 10:39 PM
   Prophylaxis:
   DVT: sq hep
   Communication:  sister
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2190-03-26 07:49:00 Physician Resident Progress Note
Chief Complaint: 54M with resolved delirium post-operatively
   24 Hour Events:
   - Called out to Medicine
   - d/c'd restraints and d/c'd foley
   - Surgery wants to send the patient home
   - Psych: Changed back to at home meds, avoid sedating agents, okay with
   zyprexa or haldol PRN.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-3-25**] 08:00 AM
   Famotidine (Pepcid) - [**2190-3-25**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, No(t) Dyspnea
   Genitourinary: No(t) Dysuria
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Pain: No pain / appears comfortable
   Pain location: No pain at incision site
   Flowsheet Data as of  [**2190-3-26**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 67 (62 - 84) bpm
   BP: 99/56(66) {90/45(56) - 112/69(79)} mmHg
   RR: 21 (18 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,080 mL
                                                                    480 mL
   PO:
                                                                    850 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    450 mL
   Urine:
                                                                  1,610 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -531 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No longer
   sedated/delirious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Right mid lung and base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   237 K/uL
   13.9 g/dL
   91 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   8 mg/dL
   107 mEq/L
   140 mEq/L
   39.1 %
   7.9 K/uL
        [image002.jpg]
                             [**2190-3-23**]  10:58 PM
                             [**2190-3-24**]  03:47 AM
                             [**2190-3-25**]  05:13 AM
                             [**2190-3-26**]  04:00 AM
   WBC
   8.4
   12.8
   7.9
   Hct
   36.8
   39.7
   39.1
   Plt
   197
   209
   237
   Cr
   0.8
   0.7
   0.8
   TCO2
   25
   Glucose
   122
   103
   91
   Other labs: Differential-Neuts:80.6 %, Band:0.0 %, Lymph:13.3 %,
   Mono:4.9 %, Eos:0.9 %, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   54M with PMH bipolar disorder and thyroid goiter, now POD #3 from
   subtotal thyroidectomy, with agitated delirium post-op requiring
   intubation/sedation for airway protection.
   1. Delirium:  Occuring acutely after surgery.  Likely a response to
   anesthesia given family history of post-surgical delirium in his
   mother.  Now resolved clinically.  WBC count has normalized today, UA
   negative, and repeat chest films unchanged.
   -Haldol and zyprexa prn
    2. RML/RLL crackles: Leukocytosis resolving and Tmax 99.1.  Low
   suspicion for aspiration.
   -continue to monitor fever curve
   3. s/p subtotal thyroidectomy:
   -Routine post-op care per surgery team.
   4. Bipolar disorder:
   -continue phenelzine and lithium.
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:  Comments: Not needed
   Lines:
   18 Gauge - [**2190-3-23**] 10:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:D/C Home

2190-03-26 10:46:00 Physician Attending Progress Note
Chief Complaint: post op delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Much improved mental status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2190-3-25**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-3-26**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 65 (62 - 77) bpm
   BP: 121/79(89) {90/46(56) - 121/79(89)} mmHg
   RR: 25 (18 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,080 mL
                                                                    540 mL
   PO:
                                                                    850 mL
                                                                    540 mL
   TF:
   IVF:
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    875 mL
   Urine:
                                                                  1,610 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -531 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Alert NAD conversant and appropriate
   RRR
   Right mid lung field crackles
   Abd soft NT
   Ext no edema
   Labs / Radiology
   13.9 g/dL
   237 K/uL
   91 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   8 mg/dL
   107 mEq/L
   140 mEq/L
   39.1 %
   7.9 K/uL
        [image002.jpg]
                             [**2190-3-23**]  10:58 PM
                             [**2190-3-24**]  03:47 AM
                             [**2190-3-25**]  05:13 AM
                             [**2190-3-26**]  04:00 AM
   WBC
   8.4
   12.8
   7.9
   Hct
   36.8
   39.7
   39.1
   Plt
   197
   209
   237
   Cr
   0.8
   0.7
   0.8
   TCO2
   25
   Glucose
   122
   103
   91
   Other labs: Differential-Neuts:80.6 %, Band:0.0 %, Lymph:13.3 %,
   Mono:4.9 %, Eos:0.9 %, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   1. Post op Delerium
  Likely combination of held psych meds,
   anesthesia, and situational delerium with baseline psych disorder.  Now
   resolved. Back on home psych meds
   2. Possible Aspiration PNA peri reintubation: though does have crackles
   on exam afebrile, good cough, CXR slightly improved. WBC down. No
   indication for ABX. Follow up with PCP if any cough fevers or dyspnea.
   3. Subtotal thyroidectomy
 wound looks stable, postop care per
   surgical team as outpt
    4. Bipolar d/o
 resume home meds, follow up with Psych
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-3-23**] 10:39 PM
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :D/C Home, follow up with surgery, psych and PCP over [**Name9 (PRE) **]
   10 days
   Total time spent: 35